US06635635B2
5,5-Dioxo-2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]benzothiadiazin-8-ol
In Step A, 2-amino-5-methoxybenzenesulphonamide is replaced by 2-amino-4-methoxybenzenesulphonamide.

reactant | 2-amino-5-methoxybenzenesulphonamide | NC1=C(C=C(C=C1)OC)S(=O)(=O)N | C7H10N2O3S
reactant | 2-amino-4-methoxybenzenesulphonamide | NC1=C(C=CC(=C1)OC)S(=O)(=O)N | C7H10N2O3S
product | 5,5-Dioxo-2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]benzothiadiazin-8-ol | O=S1(NC2N(C3=C1C=CC(=C3)O)CCC2)=O | C10H12N2O3S
